US03987158
A mixture of 4-chloro-3-methylphenol (100 g.) and 1,2-dibromoethane (158.2 g.) in water (160 ml.) was stirred and heated to reflux during the slow dropwise addition of a solution of sodium hydroxide (30.8 g.) in water (140 ml.). Stirring and heating were continued for a total of 6 hours and the mixture was cooled and extracted exhaustively with ether. The ethereal extract was washed exhaustively with 5N-sodium hydroxide, dried over potassium carbonate, filtered and evaporated. The residual oil was distilled under reduced pressure to give 1-bromo-2-(4-chloro-3-methylphenoxy)ethane, b.p. 106°-112° 10.65 mm.

reactant | 4-chloro-3-methylphenol | 100 g | ClC1=C(C=C(C=C1)O)C | C7H7ClO
reactant | 1,2-dibromoethane | 158.2 g | BrCCBr | C2H4Br2
reactant | sodium hydroxide | 30.8 g | [OH-].[Na+]
solvent | water | 160 ml | O | H2O
solvent | water | 140 ml | O | H2O
product | 1-bromo-2-(4-chloro-3-methylphenoxy)ethane | BrCCOC1=CC(=C(C=C1)Cl)C | C9H10BrClO
